Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
aspirin / Celebrex / Motrin
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo M with left sided GBM with progressive disease 
despite resection and chemo-rads who was recently admitted for 
increased right sided weakness and falls. During that admission, 
the patient's falls were thought to be related to deconditioning 
and possible seizures so he was started on ___ and sent to 
rehab. On ___, the patient was found on the floor of his rehab 
room. He was thought to have fallen. By report, there was no 
bladder or bowel incontinence. It is unclear whether there was 
any change in neuro symptoms. He was initially brought to ___ 
and then transferred to ___.

At ___, head CT and neck was unchanged from previous. His 
brain mass and edema was stable. He was seen by neurology 
resident who discussed the case with his oncologist Dr. ___ 
___ decision was made to increase anti-epileptic. He was going 
to be discharged back to rehab but he had a mildly elevated 
lactate despite 2L IV NS, so he was admitted for observation. 
  
On arrival to the floor, patient has stable exam. VSS 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___ N/V started  
- ___ Brain MRI showed left temporal mass  
- ___ Biopsy by Dr. ___: glioblastoma  
- ___ Partial resection by Dr. ___: 
glioblastoma
- ___ - ___ IMRT/TMZ 30x2 Gy by Dr. ___  
- ___ Brain MRI shows progression  
- ___ C1 TMZ  
- ___ C2 TMZ  
- ___ Admission with decline and failure to thrive  
- ___ Brain MRI shows progression  
- ___ C3 TMZ  
- ___ C1 Bevacizumab  
- ___ Brain MRI showed mixed response  
- ___ C2 Bevacizumab  
- ___ C4 TMZ  
- ___ C3 Bevacizumab  
- ___ C5 TMZ  
 
PAST MEDICAL HISTORY:
# Hepatitis B - diagnosed ___ years ago, treated with entecavir  

# Dural AVF s/p diagnostic angiogram ___ - presented with 
nausea
and hearing loss and had an outside scan concerning for AVM.  
# Arthritis  
 
Social History:
___
Family History:
Grandfather with a brain tumor. Otherwise no known family 
history of any neurologic disorders including strokes, seizures, 
or vascular malformations.

 
Physical Exam:
ADMISSION PHYSICAL 
=================
VS:  97.5, 165/94, 70, 18, 96% RA
GENERAL: Restless, responds to voice (language barrier)  
HEENT: crust over V1 from zoster, eye swollen, pupils reactive
CARDIAC:  RRR
LUNG:   Clear
ABD:  soft, NT, ND, hypoactive BS
NEURO: +paraphasias, +dysarthria. Speaks in ___ word phrases. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. R lower facial droop.  - Motor: Normal bulk and 
tone. No tremor or asterixis.  R>L motor weakness Plantar 
response mute bilaterally  Sensory: No deficits to light touch 
throughout Gait: not tested

DISCHARGE:
==================
VS: 98.3 ___ 18 97-100% RA
GENERAL: Responds to voice and makes eye contact(communication
has to be through family who understand his responses),
intermittently follows simple commands  
HEENT: resolving crust over V1 from zoster, R eye swelling,
PERRL, MMM
CARDIAC:  RRR
LUNG:   Clear to auscultation
ABD:  soft, NT, ND, hypoactive BS
NEURO: +paraphasias, +dysarthria. Speaks in ___ word phrases.
EOMI, no nystagmus. R lower facial droop.  - Motor: Normal bulk
and tone. No tremor or asterixis. R sided UE and ___ strength 
___.
Left sided ___. No clonus. Gait: not tested  
 
Pertinent Results:
ADMISSION LABS
=============
___ 06:30AM BLOOD WBC-14.1* RBC-5.93 Hgb-13.3* Hct-41.9 
MCV-71* MCH-22.4* MCHC-31.7* RDW-18.6* RDWSD-42.5 Plt ___
___ 09:02AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-1+ Tear 
Dr-OCCASIONAL
___ 06:30AM BLOOD Glucose-205* UreaN-24* Creat-1.0 Na-137 
K-4.2 Cl-101 HCO3-23 AnGap-17
___ 06:30AM BLOOD ALT-173* AST-66* LD(LDH)-335* AlkPhos-65 
TotBili-0.5
___ 09:02AM BLOOD Lipase-36
___ 06:30AM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.2 Mg-2.3
___ 09:10AM BLOOD Lactate-3.7*
___ 07:45AM BLOOD WBC-11.2* RBC-5.59 Hgb-12.8* Hct-40.4 
MCV-72* MCH-22.9* MCHC-31.7* RDW-19.9* RDWSD-43.6 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-129* UreaN-22* Creat-1.1 Na-139 
K-3.7 Cl-104 HCO3-22 AnGap-17
___ 07:45AM BLOOD Calcium-9.4 Phos-4.3 Mg-2.3

DISCHARGE AND PERTINENT LABS
==========================

MICROBIOLOGY
============

IMAGING
=======
___ CXR
IMPRESSION: 
 
No acute cardiopulmonary abnormality.

___ CT Head w/o contrast
IMPRESSION:
1. No evidence of calvarial fracture or acute intracranial 
hemorrhage.
2. Partially resected left temporal lobe mass, with extensive 
surrounding
vasogenic edema, unchanged.
3. Ventricular enlargement is stable.

___ CT C spine w/o contrast
IMPRESSION: 
No cervical spine fracture or acute malalignment.
 
Brief Hospital Course:
This is a ___ yo M with GBM with progression despite Avastin
therapy. He has been having more falls and possibly seizures
which was the reason for last admission. This admission for
elevated lactate. 

# Glioblastoma multiforme -Patient presented after fall at 
rehab. Was found to be sleepier per family. Zonisomide was 
discontinued with improvement in symptoms. Was started on 
topamax with control of seizures. A 24 hr video EEG showed no 
seizure activity. Tenozolamide was restarted during 
hospitalization and cycle completed on ___. Patient's 
dexamethasone was tapered off by ___.

# Lactic acidemia: Without evidence of hypo perfusion lactate 
remained elevated. Most likely from entecavir which was 
discontinued. 

# R herpes zoster ophthalmicus - Diagnosed last admission. 
Completed valtrex course on ___ with improvement in symptoms. 
Eye drops continued. Patient should follow up with ophto as 
outpatient in 1 week after discharge. 

# Chronic Hep B - low viral load. Has been on entecavir which 
can
be contributing to transaminitis, steatosis, and lactic 
acidosis. Entecavir was discontinued. Tenofovir was briefly 
started per ID recs but held as it can cause similar side 
effects to entecavir. Continue to hold tenofovir and consider 
restarting if lactic acidosis, transaminitis resolves. 

# Hypertension - Was hypertensive in the ED and on the floor. 
Labetalol was increased to 400mg TID with improved pressures. 
- increased Labetalol to 400mg TID

# Increased intraocular pressure: possibly due to steroids. 
Continued timolol eye drops and f/u ophtho as outpatient
TRANSITIONAL ISSUES
=================
- follow up with ophthalmology for elevated ocular pressures and 
herpes zoster
- The patient was started on Topamax and gabapentin for herpes 
zoster ophthalmicus pain. will monitor for AMS on the 
medication. 
- the patient does not communicate well with the ___ 
interpreter. His daughter is the best person to help facilitate 
communication.
- monitor the patent for AMS and respiratory depression give his 
standing dose of oxycodone.

CODE: full
EMERGENCY CONTACT HCP: ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Entecavir 0.5 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. Pantoprazole 40 mg PO Q24H 
4. Senna 17.2 mg PO DAILY 
5. Zonisamide 100 mg PO BID 
6. ValACYclovir 1000 mg PO Q8H 
7. TraMADol 50 mg PO Q4H:PRN pain greater than ___. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
9. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE BID 
10. Acetaminophen 500 mg PO Q6H:PRN pain 
11. Dexamethasone 4 mg PO DAILY 
12. Artificial Tear Ointment 1 Appl BOTH EYES QHS 
13. Labetalol 300 mg PO TID 
14. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
15. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Artificial Tear Ointment 1 Appl BOTH EYES QHS 
2. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
3. Gabapentin 300 mg PO TID 
4. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Labetalol 400 mg PO TID 
6. Pantoprazole 40 mg PO Q24H 
7. Senna 17.2 mg PO DAILY 
8. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
9. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
10. Docusate Sodium 100 mg PO BID 
11. LORazepam 0.25 mg PO Q6H:PRN anxiety  
12. Polyethylene Glycol 17 g PO DAILY 
13. Simethicone 40-80 mg PO QID:PRN abdominal bloating 
14. Topiramate (Topamax) 50 mg PO Q12H 
15. ValACYclovir 1000 mg PO Q8H 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*12 Tablet Refills:*0
16. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE BID 
17. OxyCODONE (Immediate Release) 5 mg PO Q6H pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Glioblastoma Multiforme
Herpes Zoster Ophthalmicus
Chronic Hepatitis B

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted after a fall. Upon 
work-up we found an elevation in one of your labs called 
lactate. This was most likely due to a side effect of your 
hepatitis B medication entacavir which we stopped. We also 
changed your seizure medications to topamax. We also continued 
your chemotherapy with tenozolamide. 
Since you complained of shingles that affect the skin need your 
eyes, we started on on a medication called gabapentin.

Please make sure to take you medications as prescribed and 
follow up with your doctor as recommended. 

We wish you the best.
Your ___ team
 
Followup Instructions:
___